US06080754
Ethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-2-carboxylate
7-Benzyloxy-3-(4-benzyloxyphenyl)-2-ethoxycarbonyl-4-ethylpyrrolo[2,1,5-cd]indolizine-1-carboxylic acid (21.63 g, 38 mmol) was dissolved in 220 ml of quinoline under a nitrogen atmosphere. Copper powder (3.35 g, 50 mmol) was added and the mixture was heated to 170° C. for 21/2 hour. The reaction mixture was filtered when hot, and the filtrate was flash chromatographed over silica gel 60, using toluene: petroleum ether (1:1) as the eluent. Fractions containing the product were combined and added 300 ml of water was added and the pH was adjusted to 2 with 6N hydrochloric acid. The organic material was extracted into 3×300 ml of dichloromethane and the combined organic layers were washed with brine, dried over sodium sulfate and the solvent was evaporated. The crude product was purified by column chromatography over silica gel 60, using toluene:petroleum ether (1:1) as the eluent. The crude product was crystallised from hot toluene and petroleum ether. This gave 15.90 g (79%) of ethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-2-carboxylate as yellow crystals. M.p. 114-116° C. MS(SP): m/z 529 (M+). 1H-NMR (DMSO-d6, 300 MHz) δ: 0.92 (t, 3H); 1.28 (t, 3H); 2.93 (q, 2H); 4.00 (q, 2H); 5.19 (s, 2H); 5.61 (s, 2H); 7.12 (d, 2H); 7.32-7.53 (m, 11H); 7.59 (d, 2H); 7.74 (s, 1H); 8.16 (d, 1H).

reactant | 7-Benzyloxy-3-(4-benzyloxyphenyl)-2-ethoxycarbonyl-4-ethylpyrrolo[2,1,5-cd]indolizine-1-carboxylic acid | 38 mmol, 21.63 g | C(C1=CC=CC=C1)OC=1C=CC=2N3C(C(=C(C13)C(=O)O)C(=O)OCC)=C(C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C36H31NO6
solvent | quinoline | 220 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Copper | 50 mmol, 3.35 g | [Cu] | Cu
product | Ethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-2-carboxylate | C(C1=CC=CC=C1)OC=1C=CC=2N3C(C(=CC13)C(=O)OCC)=C(C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C35H31NO4
